US04871730
A solution of trifluoroacetic anhydride (2.12 ml) in methylene chloride (5 ml) was added dropwise to a solution of dimethyl sulfoxide (1.56 g) in methylene chloride (10 ml) at -50° C. The mixture was stirred at -50° C. for 10 minutes. To the mixture was added a solution of benzhydryl 7-formamido-3-hydroxycepham-4-carboxylate (4.12 g) in methylene chloride (10 ml) and dimethylsulfoxide (1 ml). The mixture was stirred at -50° C. for 30 minutes and triethylamine (4 ml) was added dropwise thereto at -50° C. The reaction mixture was allowed to warm up to ambient temperature, poured into ice-water and extracted with methylene chloride. The extract was washed three times with water, dried over magnesium sulfate and filtered, and the filtrate was evaporated in vacuo. The residue was triturated with diisopropyl ether to give benzhydryl 7-formamido-3-hydroxy-3-cephem-4-carboxylate (3.42 g) as powder.

reactant | trifluoroacetic anhydride | 2.12 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | benzhydryl 7-formamido-3-hydroxycepham-4-carboxylate | 4.12 g | C(=O)NC1[C@@H]2N(C(C(CS2)O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C21H20N2O5S
reactant | triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | dimethylsulfoxide | 1 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 1.56 g | CS(=O)C | C2H6OS
product | benzhydryl 7-formamido-3-hydroxy-3-cephem-4-carboxylate | 3.42 g | C(=O)NC1[C@@H]2N(C(=C(CS2)O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C21H18N2O5S
